US09359359B2
To a solution of 2-amino-9-((2R,3S,4R,5S)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydrofuran-2-yl)-1H-purin-6(9H)-one (14 g, 49.47 mmol) in DMSO (50 mL) was added (bromomethyl)benzene (10 g, 59.36 mmol). The mixture was stirred at 50° C. overnight. Then the mixture was cooled to room temperature and HCl (50 mL, 10% w.w) was added and the mixture was stirred at 70° C. for 2 h. The reaction was cooled to room temperature, filtered and the filter cake was washed with water and ethanol and dried under vacuum to give 2-amino-7-benzyl-1H-purin-6(7H)-one (10 g, 74.2% yield) as grey solid. LCMS retention time 0.529 min; LCMS MH+ 242.

reactant | 2-amino-9-((2R,3S,4R,5S)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydrofuran-2-yl)-1H-purin-6(9H)-one | 49.47 mmol, 14 g | NC=1NC(C=2N=CN(C2N1)[C@@H]1O[C@H]([C@@H]([C@@H]1O)O)CO)=O | C10H13N5O5
reactant | (bromomethyl)benzene | 59.36 mmol, 10 g | BrCC1=CC=CC=C1 | C7H7Br
reactant | HCl | 50 mL | Cl | ClH
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2-amino-7-benzyl-1H-purin-6(7H)-one | 10 g, 74.2% yield | NC=1NC(C=2N(C=NC2N1)CC1=CC=CC=C1)=O | C12H11N5O
